US08076345B2
A) (S)-2-(4-(2-(tert-Butyldimethylsilyloxy)-1-(2-methylpyrimidin-5-yl)ethylamino)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile
A reaction mixture of 2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile (420 mg, 1.48 mmol) and (S)-2-(tert-butyldimethylsilyloxy)-1-(2-methylpyrimidin-5-yl)ethanamine (742 mg, 2.78 mmol) in acetonitrile (8 mL) and N,N-diisopropylethylamine (1 mL) was subjected to microwave irradiation at 185° C. for 3 h. The reaction mixture was concentrated and the residue was purified by silica-gel column to yield the product as a light yellow solid.

reactant | 2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile | 1.48 mmol, 420 mg | ClC=1C2=C(N=CN1)CCN(C2)C2=C(C#N)C=C(C=C2)C | C15H13ClN4
reactant | (S)-2-(tert-butyldimethylsilyloxy)-1-(2-methylpyrimidin-5-yl)ethanamine | 2.78 mmol, 742 mg | [Si](C)(C)(C(C)(C)C)OC[C@@H](N)C=1C=NC(=NC1)C | C13H25N3OSi
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
solvent | N,N-diisopropylethylamine | 1 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | (S)-2-(4-(2-(tert-Butyldimethylsilyloxy)-1-(2-methylpyrimidin-5-yl)ethylamino)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile | [Si](C)(C)(C(C)(C)C)OC[C@H](C=1C=NC(=NC1)C)NC=1C2=C(N=CN1)CCN(C2)C2=C(C#N)C=C(C=C2)C | C28H37N7OSi
